US06410550B1
C) 10-Azatricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-4-ol hydrochloride
2,2,2-Trifluoro-1-(4-hydroxy-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone (50 mg, 0.184 mmol) was dissolved in MeOH/H2O (3/1, 5 mL), treated with Na2CO3(s) (40 mg, 0.369 mmol) and warmed to 65° C. for 2 hours. The mixture was concentrated, diluted with H2O and extracted with CH2Cl2 (3×20 mL) then dried through a cotton plug. Filtration through a Silica gel plug provided an oil (10% MeOH/CH2Cl2) which was treated with 3N HCl EtOAc (3 mL) then concentrated, dissolved in a minimum of MeOH which was saturated with Et2O and stirred. After 18 hours the white crystalline product was collected by filtration (10 mg, 26%). 1H NMR (400 MHz, CDOD3) δ7.16 (d, J=8.0 Hz, 1H), 6.80 (d, J=2.0 Hz, 1H), 6.72 (dd, J=8.0,2.0 Hz, 1H), 3.32-3.28 (4H), 3.09 (dd, J=14.5, 12.0 Hz, 2H), 2.32 (m, 1H) 2.03 (d, J=11.0 Hz, 1H) APCl MS m/e 176.2 [(M+1)+]. mp 308 (dec.) °C.

reactant | 2,2,2-Trifluoro-1-(4-hydroxy-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone | 0.184 mmol, 50 mg | FC(C(=O)N1CC2C=3C=CC(=CC3C(C1)C2)O)(F)F | C13H12F3NO2
reactant | Na2CO3 | 0.369 mmol, 40 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl EtOAc | 3N, 3 mL | Cl.CCOC(=O)C
solvent | MeOH H2O | 5 mL | CO.O
product | 10-Azatricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-4-ol hydrochloride | Cl.C12C=3C=C(C=CC3C(CNC1)C2)O | InChI=1S/C11H13NO.ClH/c13-9-1-2-10-7-3-8(6-12-5-7)11(10)4-9;/h1-2,4,7-8,12-13H,3,5-6H2;1H
